### ISSUE TITLE
`omega` only wants constants on one side.

### ISSUE THREAD

**Issue by ericrbg** [leanprover/std4#499]
```lean
import Std.Tactic.Omega

example (b : Nat) (hm : 2 = b * 2) : b = 1 := by
  -- omega -- omega did not find a contradiction: trivial
  rw [Nat.mul_comm] at hm
  omega
```
